US08957025B2
2,6-Dimethyl-L-tyrosyl-N-[(2R)-2-amino-3-phenylpropyl]-D-alaninamide
N-(tert-Butoxycarbonyl)-2,6-dimethyl-L-tyrosyl-N-{(2R)-2-amino-3-phenylpropyl}-D-alaninamide (203 mg, 0.36 mmol) was dissolved in 1 mL dioxane and hydrogen chloride (4M solution in dioxane, 1 mL, 4 mmol) added and the mixture stirred at room temperature for 16 h. The mixture was evaporated under reduced pressure and the residue purified by preparative HPLC and then freeze dried to provide the title compound (83 mg, 56%) as a white solid.

reactant | N-(tert-Butoxycarbonyl)-2,6-dimethyl-L-tyrosyl-N-{(2R)-2-amino-3-phenylpropyl}-D-alaninamide | 0.36 mmol, 203 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=C(C=C(C=C1C)O)C)C(=O)N[C@H](C)C(=O)NC[C@@H](CC1=CC=CC=C1)N | C28H40N4O5
reactant | hydrogen chloride | 4 mmol, 4M, 1 mL | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2,6-Dimethyl-L-tyrosyl-N-[(2R)-2-amino-3-phenylpropyl]-D-alaninamide | 83 mg, 56% | CC1=C(C[C@H](N)C(=O)N[C@H](C)C(=O)NC[C@@H](CC2=CC=CC=C2)N)C(=CC(=C1)O)C | C23H32N4O3
